US07179830B2
j) N-(4-Amino-3-thienyl)-N′-(2,4-dichloro-3-thienyl)thiourea
was obtained in a similar manner to the method described in Example 5e by reacting 0.84 g of 3,4-diaminothiophene dihydrobromide with 0.8 g of 2,4-dichloro-3-thienyl isothiocyanate and 0.49 g of N-ethyl-N,N-diisopropylamine in THF. Crystalline product. M.p. 110–115° C.

reactant | 3,4-diaminothiophene dihydrobromide | 0.84 g | Br.Br.NC1=CSC=C1N
reactant | 2,4-dichloro-3-thienyl isothiocyanate | 0.8 g | ClC=1SC=C(C1N=C=S)Cl | C5HCl2NS2
reactant | N-ethyl-N,N-diisopropylamine | 0.49 g | C(C)N(C(C)C)C(C)C | C8H19N
solvent | THF | C1CCOC1 | C4H8O
product | N-(4-Amino-3-thienyl)-N′-(2,4-dichloro-3-thienyl)thiourea | NC=1C(=CSC1)NC(=S)NC1=C(SC=C1Cl)Cl | C9H7Cl2N3S3
